US05250691
5. t-Butyl-N-benzyloxycarbamate
To a stirred solution of O-benzylhydroxylamine (16.0 g, 0.13 mol) and di-t-butyldicarbonate (28.4 g, 0.13 mol) in a mixture of water (150 mL) and tetrahydrofuran (150 mL) 2N sodium hydroxide solution was added dropwise to adjust the pH to 8-9 and this pH was maintained for an additional two hours by occasional addition of 2N sodium hydroxide. After extraction with ethylacetate the combined organic layers were washed with brine, dried (Magnesium sulfate) and evaporated in vacuo to leave an oil which was used in the next step without any further purification. Yield 29 g (100%).

reactant | O-benzylhydroxylamine | 0.13 mol, 16.0 g | C(C1=CC=CC=C1)ON | C7H9NO
reactant | di-t-butyldicarbonate | 0.13 mol, 28.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | water | 150 mL | O | H2O
solvent | tetrahydrofuran | 2N, 150 mL | O1CCCC1 | C4H8O
product | t-Butyl-N-benzyloxycarbamate | C(C)(C)(C)OC(NOCC1=CC=CC=C1)=O | C12H17NO3
